US07612067B2
Preparation of 5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiazol-2-ylamine
50 mg of 8-(1-ethyl-propyl)-3-[2-bromo-4-methyl-5-thiazolyl]-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.13 mmol) and 10 mg of copper (I) oxide are added to 3 ml of 2 M NH3 in MeOH and vial is capped with a Teflon® lined cap, heated at 130° C. for overnight. The reaction mixture is concentrated under N2 gas and applied onto a silica-gel chromatography column (Hexane:AcOEt:2 M NH3 in MeOH=20:20:1) to give 22 mg of the title compound. Yield 54%: mass spectrum (m/e): 330 (M+1); 1H-NMR (CDCl3): 6.72 (s, 1H), 5.24 (br, 2H), 3.40 (m, 1H), 2.56 (s, 3H), 2.47 (s, 3H), 2.18 (s, 3H), 1.85 (m, 4H), 0.90 (t, 6H, J=7.4 Hz).

reactant | 8-(1-ethyl-propyl)-3-[2-bromo-4-methyl-5-thiazolyl]-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.13 mmol, 50 mg | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C(S2)Br)C | C17H21BrN4S
reactant | NH3 | 2 M, 3 ml | N | H3N
solvent | MeOH | CO | CH4O
catalyst | copper (I) oxide | 10 mg | [Cu-]=O
product | 5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiazol-2-ylamine | 22 mg, Yield 54% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C(S2)N)C | C17H23N5S
